US07943609B2
N4-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-chloro-5,6-dimethylpyridine-3,4-diamine (2.85 g, 8.29 mmol) was dissolved in 100 mL of dry 1,2-dichloroethane and the solution was cooled to 0° C. as it stirred under an atmosphere of N2. Triethylamine (2.3 mL, 16.58 mmol) and chloroacetyl chloride (0.92 mL, 11.60 mmol) were added sequentially. After 30 minutes, the reaction mixture was allowed to warm to ambient temperature and stirred for 3 days followed by heating to 70° C. for 2 days. The reaction mixture was allowed to cool to ambient temperature and was washed with saturated NaHCO3 solution (2×100 mL) and brine (100 mL). The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure to afford the crude product as a brown solid. Chromatography (SiO2, 20-50% ethyl acetate/hexanes) gave 1-((1S)-2{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-4-chloro-2-(chloromethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridine (0.44 g) as a yellow oil.

reactant | N4-((1S)-2-{[tert-Butyl(dimethyl)silyl]oxy}-1-methylethyl)-2-chloro-5,6-dimethylpyridine-3,4-diamine | 8.29 mmol, 2.85 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)NC1=C(C(=NC(=C1C)C)Cl)N | C16H30ClN3OSi
reactant | Triethylamine | 16.58 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 11.60 mmol, 0.92 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 1-((1S)-2{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-4-chloro-2-(chloromethyl)-6,7-dimethyl-1H-imidazo[4,5-c]pyridine | 0.44 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)N1C(=NC=2C(=NC(=C(C21)C)C)Cl)CCl | C18H29Cl2N3OSi
